*$
* LM5168F-Q1
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part:LM5168F-Q1
* Date: 06JAN2022
* Model Type: TRANSIENT 
* Simulator: PSPICE
* Simulator Version: 17.4-2019 S024
* EVM Order Number: LM5168FEVM
* EVM Users Guide: SNVU819 – NOVEMBER 2021
* Datasheet: SNVSBZ3 – JUNE 2021
* Topologies Supported: Buck
* Model Version: Final 1.00
*
*****************************************************	************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* A. The following features have been modeled
*	1. 	Output Voltage Setting
*	2. 	Internal Fixed Soft-Start 
*	3.  RT Frequency Selection
*	4. 	Current Sense and Positive Overcurrent Protection(OCP)	
*	5. 	Low-side FET Negative Current Limit
*	6. 	Power Good
*	7. 	Over Voltage Protection(OVP)
*	8.  Under Voltage Protection(UVP)
*	9.  FCCM Operation
*	10. Output Voltage Discharge
*	11. UVLO Protection
*	12. BOOT functionality


* B. Features have not been modelled 
*	1. Operating Quiescent Current
*   2. Shutdown Current 
*   3. Temperature dependent characteristics
*      
* C. Application Notes
*	1. The parameter STEADY_STATE has been used to reach the steady state faster. 
*      Keep STEADY_STATE = 0 to observe startup behaviour. 
*      Keep STEADY_STATE = 1 and appropriate IC on Inductor and capacitor to observe for faster Steady state. 
*   2. Ground Pins have been tied to 0V internally and hence model does not support Inverting 
*      topologies.
*
*****************************************************************************
.SUBCKT LM5168F-Q1_TRANS BST EN_UVLO FB GND PAD PGOOD RT SW VIN 
+ PARAMS: STEADY_STATE=0 
C_U1_C4         U1_N16873278 0  1.443n  
X_U1_U62         U1_FINALTON_RESET U1_N16917620 INV_DELAY_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5 DELAY=10n
V_U1_V9         U1_N16873408 0 0.34
C_U1_C5         U1_N16873466 0  1.443n  
X_U1_U46         U1_N16795973 U1_N16865305 U1_N16899964 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U6         U1_ON_TIMER U1_FINALTON_RESET U1_N16795973 U1_TOFF_INT
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U1         U1_N01219 U1_N01331 U1_RESET COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_U1_R112         U1_N16873256 U1_N16873278  100  
R_U1_R113         U1_N16883989 U1_N16873466  30  
X_U1_U55         TOFF U1_N16865305 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_U1_C1         U1_N01219 0  100n  TC=0,0 
X_U1_U43         U1_N16899970 U1_N16899964 ON_SET OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_U1_ABM6         U1_HIGH_WHEN_VFB_IS_MORE_THAN_VREF+4MV 0 VALUE { 
+ {IF(V(ON_SET)>0.5 & V(FB)>(V(VREF)+10m),1,0)}    }
X_U1_S1    U1_FINALTON_RESET_OK 0 U1_N01219 0 TIMER_U1_S1 
X_U1_U48         U1_TOFF_INT U1_N16863904 TOFF OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U1_U51         ACTIVE_MODE U1_COMP U1_ON_TIMER AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U1_U59         U1_N16899964 U1_N16899970 one_shot PARAMS:  T=70  
X_U1_U44         U1_RESET U1_RESET U1_FINALTON_RESET2 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U54         VREF FB U1_COMP COMP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U11         LS_CL U1_N16873309 U1_N16873291 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U1_U60         U1_TOFF_INT U1_TOFF_250N one_shot PARAMS:  T=230  
X_U1_U25         U1_N16795973 U1_N16870888 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=300n
X_U1_U28         U1_FINALTON_RESET U1_N16917620 U1_FINALTON_RESET_OK
+  AND2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U1_ABM9         U1_N16782154 0 VALUE { IF(V(SW)>.5,V(SW)/V(RON_RES),0)    }
X_U1_U61         U1_TOFF_INT U1_TOFF_50N one_shot PARAMS:  T=30  
E_U1_ABM175         U1_N16873406 0 VALUE { IF(
+  V(U1_N16873466)>0.5,V(U1_N16873372),0)    }
V_U1_V7         U1_N16873309 0 0.42
X_U1_U58         U1_N16873278 U1_N16873291 U1_N16873385 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U10         HS_CL U1_N16873346 U1_N16873256 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_U1_ABM7         RON_RES 0 VALUE { (V(RT) * 1Meg)    }
V_U1_V1         U1_N01331 0 1
V_U1_V8         U1_N16873346 0 0.42
E_U1_ABM11         U1_N16863904 0 VALUE { IF
+  (V(U1_N16870888)>0.5,V(U1_TOFF_50N),V(U1_TOFF_250N))    }
X_U1_U56         U1_PK_CL U1_FINALTON_RESET2 U1_FINALTON_RESET OR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_U1_V3         U1_N16778722 0 5
X_U1_U13         U1_N16873385 U1_N16873406 U1_PK_CL N16873458
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
I_U1_I1         U1_N16778722 RT DC 1u  
E_U1_ABM10         U1_IEFF 0 VALUE { V(U1_N16782154)/0.004    }
G_U1_ABMII3         U1_N16741306 U1_N01219 VALUE { IF(V(ON_SET)>0.5
+  ,V(U1_IEFF),0)    }
V_U1_V2         U1_N16741306 0 1.1
X_U1_U12         U1_N16873408 LS_CL U1_N16873372 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U1_U47         PWMBAR_FINAL U1_PK_CL U1_N16883989 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U42         U1_N01219 U1_N16741306 d_d1 
X_U3_U49         U3_N17584645 U3_N17524271 PWMBAR_FINAL AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U48         U3_N17559207 U3_N17523913 U3_N17524271 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U16         U3_N16877175 U3_ISW U3_ZCD COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U3_U649         U3_PWM U3_N17584645 INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=10n
X_U3_S4    U3_PWM_INT_OK 0 BST U3_PWM DRIVER_U3_S4 
X_U3_U28         U3_N17611021 U3_N17611002 U3_PWMBAR AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
R_U3_R245         0 BST  100MEG  
X_U3_U11         U3_PWM_INT U3_N17611165 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_U35         U3_PWM_INT U3_PWM_INT_OK_BAR_N U3_N17611169 AND2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U10         U3_N17610996 U3_N17611014 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=10n
X_U3_U9         ON_SET U3_N17610992 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_H3    VIN U3_N16807385 U3_HS_CL_INT 0 DRIVER_U3_H3 
X_U3_U17         U3_ZCD U3_N17523913 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_S5    U3_PWM_INT_OK_BAR 0 U3_PWM 0 DRIVER_U3_S5 
X_U3_U30         U3_PWM U3_N17512629 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=20n
X_U3_U14         U3_N16807541 SW d_d12 
X_U3_U27         ON_SET U3_PWMBAR_N U3_N17610996 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U3_U36         U3_N17611169 U3_N17611198 U3_PWM_INT_OK AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U13         SW U3_N16807385 d_d12 
E_U3_ABM175         U3_ISW 0 VALUE { ( V(U3_HS_CL_INT)  
+ +V(U3_LS_CL_INT) )    }
X_U3_U647         U3_PWM_INT_OK_BAR TOFF U3_N17559207 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_U3_ABM173         HS_CL 0 VALUE { IF( V(U3_N17512629)>0.5,V(U3_HS_CL_INT),0) 
+    }
X_U3_U15         U3_N17610996 U3_N17611014 U3_PWM_INT AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U37         U3_PWM_INT U3_PWM_INT_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_S8    U3_PWM SW U3_N16807385 SW DRIVER_U3_S8 
X_U3_U31         PWMBAR_FINAL U3_N17512658 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=20n
C_U3_C13         0 U3_BST_UVLO  1n  TC=0,0 
X_U3_U32         U3_N17611205 U3_N17611186 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=10n
X_U3_U8         ON_SET U3_PWM_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U3_R14         U3_N17419691 U3_BST_UVLO  1 TC=0,0 
X_U3_U39         U3_N17611165 U3_PWM_INT_OK_BAR_N INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U3_U33         U3_N17611165 U3_PWM_INT_N U3_N17611205 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_D70         VCC BST d_d12 
X_U3_U646         U3_BST_UVLO PWMBAR_FINAL U3_BST_SW_ON_INT OR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_U3_ABM174         LS_CL 0 VALUE { IF( V(U3_N17512658)>0.5,V(U3_LS_CL_INT),0) 
+    }
X_U3_U25         U3_N17611021 U3_N17611002 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=10n
X_U3_U29         U3_N17610992 U3_PWMBAR_N INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U3_E_test         U3_BST_SW_ON 0 VALUE { IF(V(U3_BST_SW_ON_INT)>0.5 ,1,0)   
+  }
V_U3_VF5         U3_N16877175 0 -0.75
X_U3_U34         U3_N17611205 U3_N17611186 U3_PWM_INT_OK_BAR AND2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U3_H2    U3_N16807541 0 U3_LS_CL_INT 0 DRIVER_U3_H2 
E_U3_ABM172         U3_N17419691 0 VALUE { IF(((V(BST) - V(SW)) > 2.6), 0 , 1) 
+    }
X_U3_S10    PWMBAR_FINAL U3_N16807541 SW U3_N16807541 DRIVER_U3_S10 
X_U3_U26         U3_N17610992 U3_PWM_N U3_N17611021 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U20         U3_N17611169 U3_N17611198 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=10n
E_U2_ABM165         VREF 0 VALUE { IF(V(U2_SS_INT) < 1.2, V(U2_SS_INT), 1.2)   
+  }
X_U2_U24         ACTIVE_MODE U2_N16972352 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U2_ABMII1         U2_N521382 U2_SS_INT VALUE { IF(V(ACTIVE_MODE) >0.5,10u,0) 
+    }
X_U2_S3    ACTIVE_MODE 0 U2_SS_INT 0 Soft_start_Housekeeping_U2_S3 
X_U2_U39         EN_UVLO U2_N16971675 U2_N169716663 U2_EN_SDWN_N
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U2_U36         U2_SS_INT U2_N521382 d_d1 
C_U2_CSS1         U2_SS_INT 0  25n IC={{STEADY_STATE}*1.2} 
X_U2_U38         EN_UVLO U2_N528489 U2_N5284713 ACTIVE_MODE COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U2_VF6         U2_N16971675 0 1.1
E_U2_ABM166         VCC 0 VALUE { IF (V(U2_EN_SDWN_N)>0.5,LIMIT(V(VIN), 5,
+  0),0)    }
X_U2_U46         U2_EN_SDWN_N U2_N16972352 U2_STANDBY AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_U2_VF5         U2_N5284713 0 100m
V_U2_VF7         U2_N169716663 0 0.6
V_U2_VF2         U2_N521382 0 1.25
V_U2_VF4         U2_N528489 0 1.5
X_U4_S1    U4_N03725 0 PGOOD 0 PGOOD_U4_S1 
V_U4_V1         U4_N02837 0 1.14
V_U4_V2         U4_N02934 0 60m
R_U4_R5         U4_N03028 U4_N03327  5  
X_U4_U1         FB U4_N02837 U4_N02934 U4_N03028 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
C_U4_C5         0 U4_N03327  1.443n  
X_U4_U15         U4_N03327 U4_N03725 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U4_D2         U4_N03327 U4_N03028 d_d 
.ENDS LM5168F-Q1_TRANS
*$
.subckt TIMER_U1_S1 1 2 3 4  
S_U1_S1         3 4 1 2 _U1_S1
RS_U1_S1         1 2 1G
.MODEL         _U1_S1 VSWITCH Roff=1e8 Ron=1m Voff=0.0V Von=1.0V
.ends TIMER_U1_S1
*$
.subckt DRIVER_U3_S4 1 2 3 4  
S_U3_S4         3 4 1 2 _U3_S4
RS_U3_S4         1 2 1G
.MODEL         _U3_S4 VSWITCH Roff=1e9 Ron=2 Voff=0.2 Von=0.8
.ends DRIVER_U3_S4
*$
.subckt DRIVER_U3_H3 1 2 3 4  
H_U3_H3         3 4 VH_U3_H3 1
VH_U3_H3         1 2 0V
.ends DRIVER_U3_H3
*$
.subckt DRIVER_U3_S5 1 2 3 4  
S_U3_S5         3 4 1 2 _U3_S5
RS_U3_S5         1 2 1G
.MODEL         _U3_S5 VSWITCH Roff=1e6 Ron=2 Voff=0.2 Von=0.8
.ends DRIVER_U3_S5
*$
.subckt DRIVER_U3_S8 1 2 3 4  
S_U3_S8         3 4 1 2 _U3_S8
RS_U3_S8         1 2 1G
.MODEL         _U3_S8 VSWITCH Roff=10e9 Ron=1.85 Voff=1 Von=4
.ends DRIVER_U3_S8
*$
.subckt DRIVER_U3_H2 1 2 3 4  
H_U3_H2         3 4 VH_U3_H2 -1
VH_U3_H2         1 2 0V
.ends DRIVER_U3_H2
*$
.subckt DRIVER_U3_S10 1 2 3 4  
S_U3_S10         3 4 1 2 _U3_S10
RS_U3_S10         1 2 1G
.MODEL         _U3_S10 VSWITCH Roff=1e8 Ron=0.75 Voff=0.2 Von=0.8
.ends DRIVER_U3_S10
*$
.subckt Soft_start_Housekeeping_U2_S3 1 2 3 4  
S_U2_S3         3 4 1 2 _U2_S3
RS_U2_S3         1 2 1G
.MODEL         _U2_S3 VSWITCH Roff=1m Ron=1E8 Voff=0.2 Von=0.8
.ends Soft_start_Housekeeping_U2_S3
*$
.subckt PGOOD_U4_S1 1 2 3 4  
S_U4_S1         3 4 1 2 _U4_S1
RS_U4_S1         1 2 1G
.MODEL         _U4_S1 VSWITCH Roff=1e9 Ron=25 Voff=0.8V Von=0.2V
.ends PGOOD_U4_S1
*$
.subckt d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ends d_d1
*$
.subckt d_d12 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ rs=0.005
+ n=0.001
.ends d_d12
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-014
+ cjo=1e-013
+ rs=1e-005
.ends d_d
*$
.subckt one_shot in out
+ params:  t=100
s_s1         meas 0 reset2 0 s1
e_abm1         ch 0 value { if( v(in)>0.5 | v(out)>0.5,1,0)    }
r_r2         reset2 reset  0.1  
e_abm3         out 0 value { if( v(meas)<0.5 & v(ch)>0.5,1,0)    }
r_r1         meas ch  {t} 
c_c2         0 reset2  1.4427n  
c_c1         0 meas  1.4427n  
e_abm2         reset 0 value { if(v(ch)<0.5,1,0)    }
.model s1 VSWITCH
+ roff=1e+009
+ ron=1
+ voff=0.25
+ von=0.75
.ends one_shot
*$
.subckt srlatchrhp_basic_gen s r q qb params: vdd=1 vss=0 vthresh=0.5 
gq 0 qint value = {if(v(r) > {vthresh},-5,if(v(s)>{vthresh},5, 0))}
cqint qint 0 1n
rqint qint 0 1000meg
d_d10 qint my5 d_d1
v1 my5 0 {vdd}
d_d11 myvss qint d_d1
v2 myvss 0 {vss} 
eq qqq 0 qint 0 1
x3 qqq qqqd1 buf_basic_gen params: vdd={vdd} vss={vss} vthresh={vthresh}
rqq qqqd1 q 1
eqb qbr 0 value = {if( v(q) > {vthresh}, {vss},{vdd})}
rqb qbr qb 1 
cdummy1 q 0 1n 
cdummy2 qb 0 1n
.ic v(qint) {vss}
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ends srlatchrhp_basic_gen
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.subckt LOAD_MODULE VOUT GND PARAMS: VOUT=1 ILOAD=1 ILOAD2=2 TD=1m TR=10u TF=10u PW=100u
X_S1    VLOAD GND VOUT GND LOAD_MODULE_S1 PARAMS: VOUT={VOUT} ILOAD={ILOAD} ILOAD2={ILOAD2}
V_V1    VLOAD GND PULSE(0 1 {TD} {TR} {TF} {PW} 2)
.ends LOAD_MODULE
*$
.subckt LOAD_MODULE_S1 1 2 3 4 PARAMS: VOUT=1 ILOAD=1 ILOAD2=2  
S_S1         3 4 1 2 _S1
RS_S1        1 2 1G
.MODEL      _S1 SW(Roff={VOUT/ILOAD} Ron={VOUT/ILOAD2} Voff=0.2 Von=0.8)
.ends LOAD_MODULE_S1
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$